US20010053785A1
(2S)-2-[4-(2-benzyl-benzofuran-3-yl)-4″-methoxy-[1,1′;3′,1″]terphenyl-4-yloxy]-3-phenyl-propionic acid
The title compound was prepared from 4-(2-benzyl-benzofuran-3-yl)-4″-methoxy-[1,1′;3′,1″]terphenyl-4-ol, and (S)-(−)-3-phenyllactic acid methyl ester, in substantially the same manner, as described in Example 1, steps g-h , and was obtained as a white solid, mp 73-75° C.; MS m/e 629 (M−H)+;

reactant | 4-(2-benzyl-benzofuran-3-yl)-4″-methoxy-[1,1′;3′,1″]terphenyl-4-ol | C(C1=CC=CC=C1)C=1OC2=C(C1C1(CC=C(C=C1)C1=CC(=CC=C1)C1=CC=C(C=C1)OC)O)C=CC=C2 | C34H28O3
reactant | (S)-(−)-3-phenyllactic acid methyl ester | COC([C@@H](O)CC1=CC=CC=C1)=O | C10H12O3
product | (2S)-2-[4-(2-benzyl-benzofuran-3-yl)-4″-methoxy-[1,1′;3′,1″]terphenyl-4-yloxy]-3-phenyl-propionic acid | C(C1=CC=CC=C1)C=1OC2=C(C1C1(CC=C(C=C1)C1=CC(=CC=C1)C1=CC=C(C=C1)OC)O[C@H](C(=O)O)CC1=CC=CC=C1)C=CC=C2 | C43H36O5
